US03932411
5-{3-[4-(4-bromobenzyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one
From 5-hydroxy-1-oxotetraline and 1-(3-chloropropyl)-4-(4-bromobenzyl)-piperazine; yield 50% of theory; m.p. of the dihydrochloride (recrystallized from 1N hydrochloric acid) 256°-259°C (decomposed);

reactant | 5-hydroxy-1-oxotetraline | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | 1-(3-chloropropyl)-4-(4-bromobenzyl)-piperazine | ClCCCN1CCN(CC1)CC1=CC=C(C=C1)Br | C14H20BrClN2
reactant | dihydrochloride | 1N | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 5-{3-[4-(4-bromobenzyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one | yield 50% | BrC1=CC=C(CN2CCN(CC2)CCCOC2=C3CCCC(C3=CC=C2)=O)C=C1 | C24H29BrN2O2
